US06380387B1
N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester was prepared from 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester and 2-chloro-6-methylbenzoyl chloride using the general procedures described in example 33 and was obtained as a white solid: mp 84-88° C. ES-HRMS m/e calcd for C28H30ClN3O7 (M+Na) 578.1664, found 578.1665.

reactant | 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester | C(C)(=O)OC(C)OC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C20H25N3O6
reactant | 2-chloro-6-methylbenzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)C | C8H6Cl2O
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 1-(acetoxy)ethyl ester | C(C)(=O)OC(C)OC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C28H30ClN3O7
